US08202873B2
Combine 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.500 g, 1.94 mmol) with (5-methyl-pyrazol-1-yl)-acetic acid ethyl ester (0.416 g, 2.48 mmol) in ethanol (8 mL). Add acetic acid (801 μL, 14 mmol) and a 37% aqueous solution of formaldehyde (401 μL). Heat in microwave at 120° C. for 5 hr. Add acetic acid (801 μL, 14 mmol) and a 37% aqueous solution of formaldehyde (401 μL). Heat in microwave at 120° C. for 3 hr. Concentrate, add ethyl acetate and saturated aqueous sodium bicarbonate solution. Separate organic layer. Extract aqueous layer twice with ethyl acetate, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes then 10:90 methanol:ethyl acetate) to give {4-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-5-methyl-pyrazol-1-yl}-acetic acid ethyl ester (139 mg, 16%). MS (ES): m/z=439 [M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.94 mmol, 0.500 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | (5-methyl-pyrazol-1-yl)-acetic acid ethyl ester | 2.48 mmol, 0.416 g | C(C)OC(CN1N=CC=C1C)=O | C8H12N2O2
reactant | acetic acid | 14 mmol, 801 μL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 401 μL | C=O | CH2O
reactant | acetic acid | 14 mmol, 801 μL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 401 μL | C=O | CH2O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | {4-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-5-methyl-pyrazol-1-yl}-acetic acid ethyl ester | 139 mg, 16% | C(C)OC(CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F)=O | C23H27FN6O2
